US09428495B2
To stirred suspension of sodium hydride (203.1 mg, 5.1 mmol as a 60% oil dispersion) in THF (18 mL) cooled to 0° C. was added dropwise (S)—N—((R)-3-(benzyloxy)-2-hydroxypropyl)-2-chlorobutanamide (362.8 mg, 1.270 mmol) in THF (3.8 mL) over a 5-min period after which the reaction was stirred at 0° C. for 30 min followed by stirring at rt for 5 h. The completed reaction was quenched with the slow addition of IPA (1 mL) followed by adding Dowex 50, H+ form, until a neutral to acidic pH was observed. The final suspension was filtered and the solid was rinsed two times with EtOAc. The combined filtrated were concentrated and the resultant crude product was purified over silica gel (Biotage, eluting with 1:1 EtOAc:heptane). The desired fractions were combined, concentrated and dried in vacuo to provide (2R,6R)-6-((benzyloxy)methyl)-2-ethylmorpholin-3-one (314 mg, 1.260 mmol, 99.2% yield).

reactant | sodium hydride | [H-].[Na+]
reactant | (S)—N—((R)-3-(benzyloxy)-2-hydroxypropyl)-2-chlorobutanamide | 1.270 mmol, 362.8 mg | C(C1=CC=CC=C1)OC[C@@H](CNC([C@H](CC)Cl)=O)O | C14H20ClNO3
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 3.8 mL | C1CCOC1 | C4H8O
product | (2R,6R)-6-((benzyloxy)methyl)-2-ethylmorpholin-3-one | 1.260 mmol, 314 mg, 99.2% yield | C(C1=CC=CC=C1)OC[C@@H]1O[C@@H](C(NC1)=O)CC | C14H19NO3
